US07981896B2
3,5-Diethyl-1-(4-methoxyphenyl)-1H-pyrazole.
A solution of 3,5-heptanedione (1.06 mL, 7.80 mmol) and 4-methoxyphenylhydrazine hydrochloride (1.49 g, 8.58 mmol) in ethanol (25 mL) was stirred at 60° C. overnight. After the reaction was concentrated, the residue was partitioned between 1 N HCl and ethyl acetate. The ethyl acetate layer was washed two times with 1 N HCl. The organic layer was dried (MgSO4) and concentrated to give 893 mg of the title compound. LC-MS (C14H18N2O calculated 230) m/z 231 (M+H).

reactant | 3,5-heptanedione | 7.80 mmol, 1.06 mL | CCC(CC(CC)=O)=O | C7H12O2
reactant | 4-methoxyphenylhydrazine hydrochloride | 8.58 mmol, 1.49 g | Cl.COC1=CC=C(C=C1)NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3,5-Diethyl-1-(4-methoxyphenyl)-1H-pyrazole | 893 mg | C(C)C1=NN(C(=C1)CC)C1=CC=C(C=C1)OC | C14H18N2O
